US07223773B2
46.1 mg of ethyl 8-[3-(1-bromoethyl)phenyl]-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was dissolved in 2 ml of tetrahydrofuran. 0.1 ml of a solution of 2.0 M of methylamine in tetrahydrofuran was added to the obtained solution and they were stirred for 10 hours. The reaction mixture was concentrated under reduced pressure, and the obtained residue was dissolved in 1 N hydrochloric acid. After washing the obtained solution with ethyl acetate, the aqueous layer was concentrated under reduced pressure. The obtained residue was dissolved in 2 ml of methanol. 1 ml of 1 N aqueous sodium hydroxide solution was added to the obtained solution, and they were stirred at 50° C. for 1 hour. The reaction mixture was made acidic with 1 N hydrochloric acid to obtain 8.1 mg of 1-cyclopropyl-9-methyl-8-[3-(1-methylaminoethyl)phenyl]-4-oxo-4H-quinolizine-3-carboxylic acid in the form of crystals.

reactant | ethyl 8-[3-(1-bromoethyl)phenyl]-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 46.1 mg | BrC(C)C=1C=C(C=CC1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O | C24H24BrNO3
reactant | methylamine | 2.0 M | CN | CH5N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-cyclopropyl-9-methyl-8-[3-(1-methylaminoethyl)phenyl]-4-oxo-4H-quinolizine-3-carboxylic acid | 8.1 mg | C1(CC1)C=1C=C(C(N2C=CC(=C(C12)C)C1=CC(=CC=C1)C(C)NC)=O)C(=O)O | C23H24N2O3
